US07112610B2
2-Aminomethyl-4,4-dimethyl-heptanoic acid hydrochloride.
2-Cyano-4,4-dimethyl-hepta-2,6-dienoic acid ethyl ester (5.88 g, 28 mmol) was dissolved in the mixture of 91 mL of ethanol and 6 mL of HCl and treated with 0.4 g of PtO2. The reaction was carried out under 100 psi of hydrogen pressure at room temperature for 15 hours. The catalyst was filtered and filtrate was concentrated to give 3.8 g of the desired product 2-aminomethyl-4,4-dimethyl-heptanoic acid ethyl ester as an oil. MS (APCI): 216.2 (M+1)+. This oil was refluxed in 75 mL of 6N HCl for 18 hours. While the reaction was cooled, a precipitate formed. The solid was filtered, washed with additional HCl solution and triturated with ether to give the clean title compound. MS (APCI): 188.1 (M+1)+. 186.1 (M−1)+. 1H NMR (400 MHz; CD3OD): 0.91 (9H, m), 1.30 (5H, m), 1.81 (dd, 1H, J=7.2 Hz, 14.4 Hz), 2.72 (1H, m), 3.04 (2H, m); Anal. Calc'd for C10H21NO2.HCl: C, 53.68; H, 9.91; N, 6.26; Cl, 15.85; Found: C: 53.83; H, 10.15; N, 6.22; Cl, 15.40. MP: 229.5–231.0° C.

reactant | 2-Cyano-4,4-dimethyl-hepta-2,6-dienoic acid ethyl ester | 28 mmol, 5.88 g | C(C)OC(C(=CC(CC=C)(C)C)C#N)=O | C12H17NO2
reactant | hydrogen | [H][H] | H2
reactant | HCl | 6 mL | Cl | ClH
solvent | ethanol | 91 mL | C(C)O | C2H6O
catalyst | PtO2 | 0.4 g | O=[Pt]=O
product | 2-Aminomethyl-4,4-dimethyl-heptanoic acid hydrochloride | 3.8 g | Cl.NCC(C(=O)O)CC(CCC)(C)C | InChI=1S/C10H21NO2.ClH/c1-4-5-10(2,3)6-8(7-11)9(12)13;/h8H,4-7,11H2,1-3H3,(H,12,13);1H
